US07456193B2
Methyl 3-hydroxyl-2-(4-pyridinyl)propenoate (III)
9 g of ethyl 2-(4-pyridinyl)acetate and 1.35 g of 95% NaH are mixed in 90 ml of toluene. The mixture is heated at 100° C. for 30 minutes and is then cooled, and 8.8 ml of ethyl format are added. The mixture is left stirring at for 1 hour and at 100° C. for 45 minutes. The reaction medium is cooled and then 25.5 ml of 2N HCl are added. Filtration is carried out and then the precipitate formed is taken up in AcOEt and then in ether to produce 5.65 g of the expected compound.

reactant | ethyl 2-(4-pyridinyl)acetate | 9 g | N1=CC=C(C=C1)CC(=O)OCC | C9H11NO2
reactant | NaH | 1.35 g | [H-].[Na+]
reactant | ethyl format | 8.8 ml | C(=O)OCC | C3H6O2
reactant | HCl | 2N, 25.5 ml | Cl | ClH
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | ether | CCOCC | C4H10O
product | Methyl 3-hydroxyl-2-(4-pyridinyl)propenoate | 5.65 g | OC=C(C(=O)OC)C1=CC=NC=C1 | C9H9NO3
